US07652049B2
n-Butyllithium (1.6M in hexanes, 261 μL, 0.417 mmol) was added dropwise over 30-45 min with a syringe pump to a stirred solution of tert-butyl{[4′-fluoro-5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methoxy}dimethylsilane (200 mg, 0.438 mmol) in dry THF (0.5 mL) at −78° C. under N2. The reaction was stirred for a further 2 h at −78° C. after the addition to give a violet colored solution. Trimethyl borate (43.4 mg, 47 μL, 0.417 mmol) was added dropwise and the reaction was stirred at −78° C. for 3 h. The reaction mixture was warmed to 0° C. and acetic acid (25.1 mg, 24 μL, 0.626 mmol) was added quickly followed by 30% aqueous hydrogen peroxide (52 μL, 0.459 mmol) dropwise. The reaction was stirred at room temperature overnight, diluted with water (10 mL) and extracted with Et2O (3×20 mL). The combined extracts were washed with 50% saturated FeSO4 (20 mL), dried (Na2SO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 12×160 mm, 0-100% EtOAc in hexanes gradient) to afford 2′-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-fluoro-5-isopropyl-2-methoxy-4′-(trifluoromethyl)biphenyl-3-ol. Rf=0.32 (10% EtOAc in hexanes). LCMS calc.=473.1; found=473.2 (M+1)+. 1H NMR (600 MHz, CDCl3) δ 7.95 (s, 1H), 7.56 (d, J=7.8 Hz, 1H), 7.35 (d, J=7.9 Hz, 1H), 6.53 (d, J=7.8 Hz, 1H), 5.65 (s, 1H), 4.68 (br s, 1H), 4.54 (br s, 1H), 3.42 (s, 3H), 3.26-3.20 (m, 1H), 1.25 (d, J=6.9 Hz, 6H), 0.90 (s, 9H), 0.02 (s, 6H).

reactant | n-Butyllithium | 0.417 mmol, 1.6M, 261 μL | C(CCC)[Li]
reactant | tert-butyl{[4′-fluoro-5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methoxy}dimethylsilane | 0.438 mmol, 200 mg | C(C)(C)(C)[Si](C)(C)OCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=C(C(=C1)C(C)C)F)OC | C24H32F4O2Si
reactant | Trimethyl borate | 0.417 mmol, 47 μL, 43.4 mg | B(OC)(OC)OC | C3H9BO3
reactant | acetic acid | 0.626 mmol, 24 μL, 25.1 mg | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 0.459 mmol, 52 μL | OO | H2O2
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 2′-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-fluoro-5-isopropyl-2-methoxy-4′-(trifluoromethyl)biphenyl-3-ol | [Si](C)(C)(C(C)(C)C)OCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C(=C(C(=C1)C(C)C)F)O)OC | C24H32F4O3Si
